US07579473B2
1-[4-(6,7-Dimethoxy-quinolin-4-yloxy)-phenylcarbamoyl]-cyclopropanecarboxylic acid (254 mg, 0.62 mmol), (4-amino-benzyl)-carbamic acid tert-butyl ester (164 mg, 0.74 mmol), dry DMA (10 mls), HATU (714 mg, 1.88 mmol), and DIEA (325 ml, 1.86 mmol) were combined and stirred at room temperature. After 2 hrs, the reaction mixture is diluted with H2O and the resulting solids are filtered, washed with H2O, followed by sat'd NaHCO3, and dried under high vacuum to give crude [3-({1-[4-(6,7-dimethoxy-quinolin-4-yloxy)-phenylcarbamoyl]-cyclopropanecarbonyl}-amino)-benzyl]-carbamic acid tert-butyl ester (301 mg, 79% yield) which was used in the next reaction without further purification. LC/MS Calcd for [M+H]+ 613.3, found 613.1.

reactant | 1-[4-(6,7-Dimethoxy-quinolin-4-yloxy)-phenylcarbamoyl]-cyclopropanecarboxylic acid | 0.62 mmol, 254 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C22H20N2O6
reactant | (4-amino-benzyl)-carbamic acid tert-butyl ester | 0.74 mmol, 164 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
reactant | HATU | 1.88 mmol, 714 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.86 mmol, 325 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | H2O | O | H2O
solvent | DMA | 10 mls | CC(=O)N(C)C | C4H9NO
product | [3-({1-[4-(6,7-dimethoxy-quinolin-4-yloxy)-phenylcarbamoyl]-cyclopropanecarbonyl}-amino)-benzyl]-carbamic acid tert-butyl ester | 301 mg, 79% yield | C(C)(C)(C)OC(NCC1=CC(=CC=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O)=O | C34H36N4O7
